US06380218B1
1-(2-Hydroxy-5-methoxy-phenyl)-ethanone-O-acetyl oxime
A mixture of 1-(2-Hydroxy-5-methoxy-phenyl)-ethanone oxime (13.7 g, 0.076 mol.) and acetic anhydride (50 mL) was heated at 50° C. for 10 min. The mixture was cooled to 0° C., filtered, and the filtrant washed with water (50 mL) and dried to give 15.5 g solid. MS (m/e): 224 (M++1), 164 (100).

reactant | 1-(2-Hydroxy-5-methoxy-phenyl)-ethanone oxime | 0.076 mol, 13.7 g | OC1=C(C=C(C=C1)OC)C(C)=NO | C9H11NO3
reactant | acetic anhydride | 50 mL | C(C)(=O)OC(C)=O | C4H6O3
product | 1-(2-Hydroxy-5-methoxy-phenyl)-ethanone-O-acetyl oxime | 15.5 g | C(C)(=O)ON=C(C)C1=C(C=CC(=C1)OC)O | C11H13NO4
